US07001897B2
To a solution of 1-{4-[2-(t-butyldimethylsilyloxy)ethylcarbamoyl]-1,3-thiazol-2-yl}-3-methanesulfonyloxyazetidine (647.1 mg, 1.49 mmol) (obtained as described in Reference Example 33(5)) in dimethylformamide (32.0 ml) was added potassium thioacetate (1.28 mg, 8.9 mmol) at room temperature. The mixture was stirred in an oil bath (80° C.) for 4 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The obtained organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (3:2) as the eluant to afford 3-acetylthio-1-{4-[2-(t-butyldimethylsilyloxy)ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine (398.2 mg, yield 65%) as a pale brown solid.

reactant | 1-{4-[2-(t-butyldimethylsilyloxy)ethylcarbamoyl]-1,3-thiazol-2-yl}-3-methanesulfonyloxyazetidine | 1.49 mmol, 647.1 mg | [Si](C)(C)(C(C)(C)C)OCCNC(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C16H29N3O5S2Si
reactant | potassium thioacetate | 8.9 mmol, 1.28 mg | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 32.0 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-{4-[2-(t-butyldimethylsilyloxy)ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 398.2 mg, yield 65% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(NCCO[Si](C)(C)C(C)(C)C)=O | C17H29N3O3S2Si
